US04939140
B. 3-Ethoxycarbonylmethylidene-5,6-dichlorophthalide
A solution of 4,5-dichlorophthalic anhydride (10.0 g) and (carbethoxymethylene)triphenylphosphorane (16.0 g) in chloroform (450 ml) was refluxed for 16 hours. Evaporation of chloroform and chromatography of the residue over silica gel gave the product (9.34 g).

reactant | 4,5-dichlorophthalic anhydride | 10.0 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | (carbethoxymethylene)triphenylphosphorane | 16.0 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | chloroform | 450 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-Ethoxycarbonylmethylidene-5,6-dichlorophthalide | 9.34 g | C(C)OC(=O)C=C1OC(=O)C2=CC(=C(C=C12)Cl)Cl | C12H8Cl2O4
